US04742053
(A) Benzhydryl 7-[(Z)-2-ethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3cephem-4-carboxylate 1-oxide
4.0 g (4.7 mmol) of benzhydryl 7-[(Z)-2-ethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate was dissolved in 40 ml of benzene, and 1.0 g (5.8 mmol) of m-chloroperbenzoic acid was added under cooling with ice. The mixture was stirred at room temperature for 40 minutes. The reaction solution was poured into ice water, and extracted with ethyl acetate. The extract solution was washed with a 5% acid sodium bisulfite aqueous solution and with a saturated sodium chloride aqueous solution, then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The oily residue was solidified by an addition of n-hexane, collected by filtration and dried to obtain 3.8 g (yield: 93%) of a powder of the above identified compound.

reactant | benzhydryl 7-[(Z)-2-ethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 4.7 mmol, 4.0 g | C(C)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H40ClN5O5S2
reactant | m-chloroperbenzoic acid | 5.8 mmol, 1.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | Benzhydryl 7-[(Z)-2-ethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3cephem-4-carboxylate 1-oxide | 3.8 g, yield: 93% | C(C)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2=O)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H40ClN5O6S2
